US06274536B1
3-Fluoro-5-chloro-2-pyridinecarboxylic Acid Chloride
71.38 g of 3-fluoro-5-chloro-2-pyridinecarboxylic acid (Example P4) are placed in a round-bottomed flask and heated to 90° C. 59 ml of thionyl chloride are added dropwise from a dropping funnel over a period of 30 minutes, and the gas formed is introduced into sodium hydroxide solution. Stirring is then carried out for 5 hours at 100° C., after which the thionyl chloride is distilled off at normal pressure. After the addition of 50 ml of dry toluene, 20 ml thereof are distilled off. The resulting solution is poured into 200 ml of n-hexane and stirred overnight. After cooling in an ice-bath, the mixture is filtered and the filtration residue is washed twice with n-hexane. 68.7 g of the desired compound are obtained in the form of a brown solid.

reactant | 3-fluoro-5-chloro-2-pyridinecarboxylic acid | 71.38 g | FC=1C(=NC=C(C1)Cl)C(=O)O | C6H3ClFNO2
reactant | thionyl chloride | 59 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydroxide | [OH-].[Na+]
product | 3-Fluoro-5-chloro-2-pyridinecarboxylic Acid Chloride | 68.7 g | FC=1C(=NC=C(C1)Cl)C(=O)Cl | C6H2Cl2FNO
